US04223142
(c) 5-Cyano-6-methylidene-hydrazino-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester
28.7 g of 5-cyano-6-formyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester (0.1 mol) are dissolved in 100 ml of methanol. 5.5 g of hydrazine hydrate are added and the solution is stirred at room temperature over night. The title compound is filtered off and recrystallized from methanol. Yield 20.5 g (68%); m.p. 168°-170° C.

reactant | 5-cyano-6-formyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester | 0.1 mol, 28.7 g | C(#N)C=1C=C(C(=NC1C=O)N1CCCCC1)C(=O)OCC | C15H17N3O3
reactant | hydrazine hydrate | 5.5 g | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 5-Cyano-6-methylidene-hydrazino-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester | C(#N)C1=C(C(=C(NC1=C)N1CCCCC1)C(=O)OCC)NN | C15H21N5O2
